US07125883B1
) 3-(Chloromethyl)benzonitrile (30 g; 197.9 mmol) and di-tert-butyl iminodicarboxylate were reacted in analogy to Lila et al., Synth. Comm. 28, 23, 1998, 4419, to give di(tert-butyl) 3-cyanobenzylimidodicarbonate. 65 g of a reddish oil were obtained and were employed without further purification.

reactant | 3-(Chloromethyl)benzonitrile | 197.9 mmol, 30 g | ClCC=1C=C(C#N)C=CC1 | C8H6ClN
reactant | di-tert-butyl iminodicarboxylate | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
product | di(tert-butyl) 3-cyanobenzylimidodicarbonate | C(#N)C=1C=C(CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=CC1 | C18H24N2O4
